US05399584
Preparation of 2-(2-chlorophenyl)-7-methoxy-4H-1-benzopyran-4-one (2) (2'-chloro-7-methoxyflavone):
2 is prepared from 2-hydroxy-4-methoxyacetophenone and 2-chlorobenzoyl chloride by the procedure of Example 1. Material is purified by flash chromatography (gradient elution using 25% ethyl acetate in hexane and 10% ethyl acetate in chloroform; material is loaded on column in methylene chloride), yielding 2 with a melting point of 148.5°-149.5° C.

reactant | 2-hydroxy-4-methoxyacetophenone | CC(=O)C1=C(C=C(C=C1)OC)O | C9H10O3
reactant | 2-chlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
product | 2-(2-chlorophenyl)-7-methoxy-4H-1-benzopyran-4-one | ClC1=C(C=CC=C1)C=1OC2=C(C(C1)=O)C=CC(=C2)OC | C16H11ClO3
